US07893056B2
To a solution of tris(1,1-dimethylethyl)2-{2-chloro-6-[4-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (2.2004 g, 3.648 mmol) in MeOH (22 mL) was added 4 N HCl in dioxane (22 mL). The solution was stirred for 3 days and then concentrated in vacuo. The residue was azeotroped with MeOH (50 mL), and then partitioned between DCM (100 mL) and sat. aq. NaHCO3 (100 mL). The aqueous phase was extracted with fresh DCM (2×50 mL), and the combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,5,5-tetramethyl-3-pyrrolidinamine (1.0552 g, 96%) as an orange foam. LCMS: (M+H)+: 303.1.

reactant | tris(1,1-dimethylethyl)2-{2-chloro-6-[4-(dimethylamino)-2,2-dimethyl-1-pyrrolidinyl]-5-fluoro-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 3.648 mmol, 2.2004 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N1C(CC(C1)N(C)C)(C)C)Cl)C(=O)OC(C)(C)C | C27H44ClFN6O6
reactant | HCl | 4 N | Cl | ClH
solvent | MeOH | 22 mL | CO | CH4O
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
product | 1-(2-chloro-5-fluoro-6-hydrazino-4-pyrimidinyl)-N,N,5,5-tetramethyl-3-pyrrolidinamine | 1.0552 g, 96% | ClC1=NC(=C(C(=N1)N1CC(CC1(C)C)N(C)C)F)NN | C12H20ClFN6
